US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate (I-1H, E isomer)
To a mixture of 7-amino-3-[3-(4-carbamoylpyridinio)-1-(E)-propenyl]-3-cephem-4-carboxylic acid hydrochloride (XXII-H, 397 mg, 1 mmole) and NaHCO3 (168 mg, 2 mmoles) in aqueous DMF (water, 3.5 ml and DMF, 7.5 ml) was added benzotriazol-1-yl-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetate (479 mg, 1.5 mmoles) (from Preparation No. 28). The mixture was stirred at room temperature for 3.5 hours. The reaction mixture was adjusted to pH 3-4 with 3N HCl and diluted with 200 ml of acetone to give a precipitate, which was collected by filtration. The crude product was dissolved in a small volume of aqueous THF and the solution was adjusted to pH 6.8 with NaHCO3, treated with decolorizing carbon, concentrated to ca. 1 ml and seeded with a few pieces of crystalline I-1H. After stirring overnight, the crystalline precipitate was collected by filtration to afford the title compound I-1H (zwitterion form). Yield 83 mg (16%). Mp. >185° C. (dec.). Physico-chemical data of this product were identical to those of the compound in Example 10.

reactant | 7-amino-3-[3-(4-carbamoylpyridinio)-1-(E)-propenyl]-3-cephem-4-carboxylic acid hydrochloride | 1 mmole, 397 mg | Cl.NC1[C@@H]2N(C(=C(CS2)\C=C\C[N+]2=CC=C(C=C2)C(N)=O)C(=O)O)C1=O
reactant | NaHCO3 | 2 mmoles, 168 mg | C(=O)(O)[O-].[Na+]
reactant | benzotriazol-1-yl-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetate | 1.5 mmoles, 479 mg | N1(N=NC2=C1C=CC=C2)CON=C(C(=O)[O-])C2=NSC(=N2)N
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)=NOC | C21H20N8O6S2
